US08580783B2
2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-6-fluoro-4-(4-methyl-piperazin-1-yl)-benzoic acid methyl ester (VIII)
To a solution of 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-4,6-difluoro-benzoic acid methyl ester (0.50 g, 1.43 mmol) in dimethylsulfoxide (8 mL) was added N-methylpiperazine (0.20 mL, 2.86 mmol). The reaction was stirred at 80° C. for 3 h then cooled at room temperature. The solid precipitated was filtered and washed with a mixture H2O/EtOH 1/1, to provide after drying the title compound (0.15 g, 25% yield).

reactant | 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-4,6-difluoro-benzoic acid methyl ester | 1.43 mmol, 0.50 g | COC(C1=C(C=C(C=C1F)F)NC(CC1=CC2=C(OCO2)C=C1)=O)=O | C17H13F2NO5
reactant | N-methylpiperazine | 2.86 mmol, 0.20 mL | CN1CCNCC1 | C5H12N2
solvent | dimethylsulfoxide | 8 mL | CS(=O)C | C2H6OS
product | 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-6-fluoro-4-(4-methyl-piperazin-1-yl)-benzoic acid methyl ester | 0.15 g, 25% yield | COC(C1=C(C=C(C=C1F)N1CCN(CC1)C)NC(CC1=CC2=C(OCO2)C=C1)=O)=O | C22H24FN3O5
